US06143763
A suspension of 6-(3-chloropropoxy)carbostyril (100 g) and sodium azide (33 g) in dimethylformamide is refluxed at 80° C. for 4 hours. After the mixture is allowed to cool, to the mixture is added ice-water, and the precipitated crystals are collected by filtration, washed with diethyl ether, and dried to give 6-(3-azidopropoxy)carbostyril (100 g) as a white powder.

reactant | 6-(3-chloropropoxy)carbostyril | 100 g | ClCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H12ClNO2
reactant | sodium azide | 33 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(3-azidopropoxy)carbostyril | 100 g | N(=[N+]=[N-])CCCOC=1C=C2C=CC(NC2=CC1)=O | C12H12N4O2
